US07514452B2
Using ethyl 5-bromo-3-phenyl-2-furancarboxylate (1.18 g) and phenylboronic acid (0.98 g), a reaction and treatment was carried out in the same manner as in Reference Example 2, thereby giving 1.21 g of ethyl 3,5-diphenyl-2-furancarboxylate.

reactant | ethyl 5-bromo-3-phenyl-2-furancarboxylate | 1.18 g | BrC1=CC(=C(O1)C(=O)OCC)C1=CC=CC=C1 | C13H11BrO3
reactant | phenylboronic acid | 0.98 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | ethyl 3,5-diphenyl-2-furancarboxylate | 1.21 g | C1(=CC=CC=C1)C1=C(OC(=C1)C1=CC=CC=C1)C(=O)OCC | C19H16O3
